US07462630B2
Synthesis of 2-[4-(9H-thioxanthen-9-ylidene)-1-piperidinyl]-2-oxoethanamine hydrochloride:
135 mg (0.297 mmol) of t-butyl 2-oxo -2-[4-(9H -thioxanthen -9-ylidene)-1-piperidinyl]ethylcarbamate was dissolved in 2 ml of dioxane. After adding 2 ml of 4 N hydrochloric acid/1,4-dioxane solution, they were stirred overnight. The obtained mixture was neutralized with saturated aqueous sodium hydrogencarbonate solution. After extracting with ethyl acetate twice and drying over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure. 2 ml of dichloromethane and then 2 ml of 4 N hydrochloric acid/1,4-dioxane solution were added to the residue. The resultant precipitates were taken by the filtration, washed with dichloromethane and air-dried. After further drying under reduced pressure, the title compound was obtained.

reactant | t-butyl 2-oxo -2-[4-(9H -thioxanthen -9-ylidene)-1-piperidinyl]ethylcarbamate | 0.297 mmol, 135 mg | O=C(CNC(OC(C)(C)C)=O)N1CCC(CC1)=C1C2=CC=CC=C2SC=2C=CC=CC12 | C25H28N2O3S
reactant | hydrochloric acid 1,4-dioxane | 4 N, 2 ml | Cl.O1CCOCC1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(9H-thioxanthen-9-ylidene)-1-piperidinyl]-2-oxoethanamine hydrochloride | Cl.C1=CC=CC=2SC3=CC=CC=C3C(C12)=C1CCN(CC1)C(CN)=O | InChI=1S/C20H20N2OS.ClH/c21-13-19(23)22-11-9-14(10-12-22)20-15-5-1-3-7-17(15)24-18-8-4-2-6-16(18)20;/h1-8H,9-13,21H2;1H
